US06576762B2
N-(3,5-Bis-trifluoromethyl-benzyl)-6-(2-hydroxy-ethylamino)-N-methyl-4-o-tolyl-nicotinamide
A mixture of 0.837 g (1.72 mmol) N-(3,5-bis-trifluoromethyl-benzyl)-6-chloro-N-methyl-4-o-tolyl-nicotinamide and 5.0 ml (83 mmol) ethanolamine was stirred at 100° C. for 48 h. After cooling to room temperature excess ethanolamine was removed under reduced pressure. The residue was dissolved in a mixture of ethyl acetate and saturated aqueous sodium bicarbonate solution. The layers were separated and the aqueous layer was extracted with two portions of ethyl acetate. The combined organic extracts were washed with saturated aqueous sodium bicarbonate solution and water, dried with sodium sulfate and concentrated to give 0.8 g of crude product. Flash chromatography afforded 0.650 g (73.9%) of the title compound as a white solid.

reactant | N-(3,5-bis-trifluoromethyl-benzyl)-6-chloro-N-methyl-4-o-tolyl-nicotinamide | 1.72 mmol, 0.837 g | FC(C=1C=C(CN(C(C2=CN=C(C=C2C2=C(C=CC=C2)C)Cl)=O)C)C=C(C1)C(F)(F)F)(F)F | C23H17ClF6N2O
reactant | ethanolamine | 83 mmol, 5.0 ml | C(O)CN | C2H7NO
product | N-(3,5-Bis-trifluoromethyl-benzyl)-6-(2-hydroxy-ethylamino)-N-methyl-4-o-tolyl-nicotinamide | 0.650 g, 73.9% | FC(C=1C=C(CN(C(C2=CN=C(C=C2C2=C(C=CC=C2)C)NCCO)=O)C)C=C(C1)C(F)(F)F)(F)F | C25H23F6N3O2
